US03987047
2,3,4,5-tetrahydro-11-methyl-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester and their hydrochlorides were prepared from an isomer mixture of 1-ethoxycarbonyl-4-ethoxy-2,3,6,7-tetrahydro-azepine and 1-ethoxycarbonyl-4-ethoxy-5H-1,2,6,7tetrahydro-azepine (ratio: 1:1) and 2-amino-acetophenone analogous to Example 217. Yield of the dihydrochloride of the [4,5-b]-isomer: 52% of theory; m.p. 247° C. Yield of the dihydrochloride of the [4,3-b]-isomer: 43% of theory; m.p. 219° C.

reactant | 1-ethoxycarbonyl-4-ethoxy-2,3,6,7-tetrahydro-azepine | C(C)OC(=O)N1CCC(=CCC1)OCC | C11H19NO3
reactant | 2-amino-acetophenone | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 2,3,4,5-tetrahydro-11-methyl-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CC=2C(=NC=3C=CC=CC3C2C)CCC1 | C17H20N2O2
